US08309721B2
Synthesis of 2-(2-fluoroethylamino)-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 2 of Example 3, but using 196.8 mg of 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 197.3 mg of potassium carbonate, 0.948 g of 2-fluoroethylamine hydrochloride and 0.963 g of triethylamine in 2 ml of dimethyl sulphoxide. 0.904 ml of a 1M aqueous solution of sodium hydroxide, 0.875 ml of a 30% aqueous solution of hydrogen peroxide and 4 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (95/5 by volume), followed by crystallization from 1 ml of ethyl acetate, 165 mg of 2-(2-fluoroethylamino)-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of an off-white solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile | 196.8 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 197.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethylamine hydrochloride | 0.948 g | Cl.FCCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | triethylamine | 0.963 g | C(C)N(CC)CC | C6H15N
product | 2-(2-fluoroethylamino)-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide | FCCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C30H23FN4O
